US07276516B2
Combine 4-(3-phenyl-indole-1-sulfonyl)-benzoic acid (125 mg, 0.33 mmol) and 2-phenyl-azetidine (100 mg, 0.75 mmol, excess) in dichloromethane (1.0 mL) and triethylamine (0.300 mL, 2.15 mmol, excess) and add benzotriazol-1-yloxytris(dimethylamino)phosphonium hexfluorophosphate (BOP Reagent) (150 mg, 0.33 mmol) at room temperature. Stir for 30 minutes, load entire reaction directly onto pre-packed silica gel column and purify by flash column chromatography (EtOAc/Hexanes) to yield 149 mg of (2-Phenyl-azetidin-1-yl)-[4-(3-phenyl-indole-1-sulfonyl)-phenyl]-methanone as a glassy solid (92%). LRMS: MH+ 493.08.

reactant | 4-(3-phenyl-indole-1-sulfonyl)-benzoic acid | 0.33 mmol, 125 mg | C1(=CC=CC=C1)C1=CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C21H15NO4S
reactant | 2-phenyl-azetidine | 0.75 mmol, 100 mg | C1(=CC=CC=C1)C1NCC1 | C9H11N
reactant | triethylamine | 2.15 mmol, 0.300 mL | C(C)N(CC)CC | C6H15N
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium | 0.33 mmol, 150 mg | N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
product | (2-Phenyl-azetidin-1-yl)-[4-(3-phenyl-indole-1-sulfonyl)-phenyl]-methanone | 149 mg, 92% | C1(=CC=CC=C1)C1N(CC1)C(=O)C1=CC=C(C=C1)S(=O)(=O)N1C=C(C2=CC=CC=C12)C1=CC=CC=C1 | C30H24N2O3S
